US07109218B2
2-Amino-4-[4-(2-methoxyethoxy)phenyl]-6-({[2-(4-morpholinyl)-1,3-thiazol-4-yl]-methyl}sulphanyl)pyridine-3,5-dicarbonitrile
2 g (6.13 mmol) of 2-amino-4-[4-(2-methoxyethoxy)phenyl]-6-sulphanylpyridine-3,5-dicarbonitrile and 2.68 g (12.26 mmol) of 4-(4-(chloromethyl)-1,3-thiazol-2-yl]morpholine are dissolved in dry DMF (50 ml), and 1.83 ml (12.26 mmol) of DBU are added. After 3 hours of stirring at RT, the solvent is removed using a rotary evaporator and the residue is purified by preparative HPLC (column: Kromasil 100 C18 250×20 mm, 10 μm; acetonitrile/water gradient: 3 minutes of 10% acetonitrile which is then, over a period of 30 minutes, increased to 80% acetonitrile; flow rate: 25 ml/min). This gives 1.70 g (55% of theory) of product.

reactant | 2-amino-4-[4-(2-methoxyethoxy)phenyl]-6-sulphanylpyridine-3,5-dicarbonitrile | 6.13 mmol, 2 g | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCOC)C#N)S | C16H14N4O2S
reactant | 4-(4-(chloromethyl)-1,3-thiazol-2-yl]morpholine | 12.26 mmol, 2.68 g | ClCC=1N=C(SC1)N1CCOCC1 | C8H11ClN2OS
reactant | DBU | 12.26 mmol, 1.83 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-[4-(2-methoxyethoxy)phenyl]-6-({[2-(4-morpholinyl)-1,3-thiazol-4-yl]-methyl}sulphanyl)pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCOC)C#N)SCC=1N=C(SC1)N1CCOCC1 | C24H24N6O3S2
